US07884246B2
2-Bromo-3-hydroxy-cylohex-2-enone (80.0 g, 420 mmol) is added to a mechanically stirred reactor followed by methanol (300 mL). To the mixture is then added trimethyl orthoformate (186 mL, 1.70 mol, 4 eq) and sulfuric acid (9 mL). The resulting mixture is stirred for 2 h until completion and hydroxylamine sulfate (34.4 g, 210 mmol, 0.5 eq) is added as a solid. The mixture is heated to 40° C. and stirred at that temperature until complete conversion (2-2.5 h). The solution is then cooled to 5° C. and the pH is adjusted to 7 with saturated sodium bicarbonate (˜1100 g). The precipitate formed is collected by filtration (filter 10 cm diameter, 1.5 cm cake thickness, <1 min total filtration time) rinsed with heptane (200 mL) and dried under nitrogen flow for 4-6 h to provide 50.8 g, (55% yield) of 2-bromo-3-methoxy-cylohex-2-enone oxime.

reactant | 2-Bromo-3-hydroxy-cylohex-2-enone | 420 mmol, 80.0 g | BrC=1C(CCCC1O)=O | C6H7BrO2
reactant | trimethyl orthoformate | 1.70 mol, 186 mL, 4 eq | C(OC)(OC)OC | C4H10O3
reactant | sulfuric acid | 9 mL | S(O)(O)(=O)=O | H2O4S
reactant | hydroxylamine sulfate | 210 mmol, 34.4 g, 0.5 eq | S(=O)(=O)(O)O.NO
reactant | sodium bicarbonate | ˜1100 g | C([O-])(O)=O.[Na+]
solvent | methanol | 300 mL | CO | CH4O
product | 2-bromo-3-methoxy-cylohex-2-enone oxime | 55% yield | BrC=1C(CCCC1OC)=NO | C7H10BrNO2
